US04305881
1.543 g (0.22 g-atom) of lithium are added to 1.3 liters of dry liquid ammonia at -31° C. to -33° C. with stirring in an argon atmosphere. After 5 minutes, there is added dropwise during 40 minutes to the resulting dark blue mixture a solution of 10.83 g (0.0316 mol) of 17,17-ethylenedioxy-1α,2α-epoxyandrosta-4,6-dien-3-one in 765 ml of ether/tetrahydrofuran (2:1). After stirring for 15 minutes, 5.3 ml of isoprene are added dropwise to the mixture. The resulting yellow mixture is treated with stirring with 13.49 g (0.252 mol) of ammonium chloride in portions and then 0.22 g (0.0316 g-atom) of lithium is added. As soon as the lithium has dissolved, 1.69 g (0.0316 mol) of ammonium chloride and subsequently a further 0.22 g (0.0316 g-atom) of lithium are added. This procedure, i.e. the addition of 0.0316 mol of ammonium chloride and 0.0316 g-at of lithium, is repeated a further fourteen times, for which a total of 23.66 g (0.442 mol) of ammonium chloride and 3.08 g (0.442 g-atom) of lithium are required. As soon as the lithium of the last addition has dissolved, 24 g (0.44 mol) of ammonium chloride are added and the mixture is cautiously diluted with 1 liter of ether. Ammonia is evaporated while stirring until an internal temperature of 0° C. has been reached and the remaining suspension is treated with 1 liter of water. The organic phase is separated, the aqueous phase is back-extracted with ethyl acetate, the organic phases are combined, washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated at 40° C./11 Torr. Chromatography of the residue on 300 g of silica gel with benzene/ethyl acetate (3:2) and benzene/ethyl acetate (2:3) gives 8.8 g (80%) of uniform, crystalline 17,17-ethylenedioxy-1α,3β-dihydroxy-androst-5-ene. The analytical sample is obtained by recrystallisation from methanol; white needles of melting point 205°-206° C.; [α]D25 =-89.8° (c=0.5 in chloroform).

reactant | lithium | 1.543 g | [Li] | Li
reactant | ammonia | N | H3N
reactant | 17,17-ethylenedioxy-1α,2α-epoxyandrosta-4,6-dien-3-one | 0.0316 mol, 10.83 g | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]2CC3)O5)=O)OC1 | C21H26O4
reactant | isoprene | 5.3 ml | C=CC(C)=C | C5H8
reactant | ammonium chloride | 0.252 mol, 13.49 g | [Cl-].[NH4+]
reactant | lithium | 0.22 g | [Li] | Li
reactant | ammonium chloride | 0.0316 mol, 1.69 g | [Cl-].[NH4+]
reactant | lithium | 0.22 g | [Li] | Li
reactant | ammonium chloride | 0.0316 mol | [Cl-].[NH4+]
reactant | ammonium chloride | 0.442 mol, 23.66 g | [Cl-].[NH4+]
reactant | lithium | 3.08 g | [Li] | Li
reactant | ammonium chloride | 0.44 mol, 24 g | [Cl-].[NH4+]
solvent | ether tetrahydrofuran | 765 ml | CCOCC.O1CCCC1
solvent | ether | 1 liter | CCOCC | C4H10O
product | 17,17-ethylenedioxy-1α,3β-dihydroxy-androst-5-ene | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]2CC3)O)O)OC1 | C21H32O4
